Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
amlodipine
 
Attending: ___.
 
Chief Complaint:
fever, dyspnea

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ h/o severe COPD not on home O2, s/p endobronchial coil 
placement for stage 4 emphysema as part of a study on ___. Dc'd 
home began having fevers, went to ___ local ___, admitted 
___ (discharged yesterday) after treatment for pneumonia, 
continued on PO levoquin. Presents today after speaking w/ study 
coordinator who recommended he present here for further 
evaluation if temp >100.4. Temp at home to 101. Increased 
dyspnea from baseline. Denies CP. No n/v. Soft stool this AM, no 
abd pain.
In the ED initial vitals were: 99.4 102 146/74 18 100% RA. Pt 
spiked to 100.2 and received tylenol.
- Labs were significant for no leukocytosis, normal lactate, INR 
1.4.
- CXR was pending.
- EKG was unchanged.
- Patient was given IV vanc and zosyn, tylenol, duonebs x2, and 
1L NS.
On the floor, patient is resting fairly comfortably with his 
wife at bedside. He reports that his breathing is still bad. He 
confirms the above history and also adds the following: While 
hospitalized at ___ in ___, his inpatient 
MDs were communicating with Dr. ___ for 
recommendations about his pulmonary management. He was started 
on levaquin ___, which he took for one day and then was 
changed to IV vanc/zosyn while in the hospital, but discharged 
again on levaquin after improvement.
He says that initially after the coil embolization ___ he felt 
well for a few days. However, on the ___ following the 
procedure (___), he began feeling unwell. On ___ he 
developed a fever. Of note, his sputum after the procedure was 
initially white with streaks of BRB but then changed to a rust 
color after he got sick. Even with the antibiotics, he continued 
to feel unwell. His sputum changed to a yellow mucous. He went 2 
days without fevers, was discharged, and then had another fever 
that night (last night). Denies flu like symptoms such as body 
aches, HA, n/v/d. Most importantly, he reports that since being 
unwell, his breathing really hasn't improved. He feels like he 
is not moving any air. No CP or leg swelling. No diarrhea or 
dysuria.
Review of Systems:
(+) per HPI. Remainder of 10 point ROS is negative.

 
Past Medical History:
- Severe COPD/emphysema. FEV1 23% in ___, with significant
hyperinflation. Negative for A1AT deficiency. No history of
respiratory failure.
- s/p RUL endobronchial coil placement ___
- CAD s/p MI and PCI x2, in ___
- Hypertension
- Nephrolithiasis, with lithotripsy, stenting, and nephrostomies
in the past.
- Hypothyroidism
- Systolic HF with EF 40% on ___

 
Social History:
___
Family History:
His grandfather had emphysema and asbestos exposure.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: 98.3, 122/75, 80, 18, 97% on RA
GENERAL: well nourished middle aged man lying in bed with O2 on 
for comfort, AAOx3, NAD
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition
NECK: no JVD
CARDIAC: very difficult to auscultate, no murmurs, gallops, or 
rubs appreciated
LUNG: mild RUL crackles, overall poor air movement. no wheezing. 
no use of accessory muscles. able to speak in full sentences.
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose
NEURO: CN II-XII intact
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes

DISCHARGE PHYSICAL EXAM:
Vitals: Tmax 98.6 Tc 97.8 122-133/78-79 HR ___ RR ___ 99% RA
GEN: Well appearing, speaks in full sentences on room air
Exam otherwise unchanged
 
Pertinent Results:
LABS:
=======
___ 03:10PM   GLUCOSE-140* UREA N-13 CREAT-1.0 SODIUM-138 
POTASSIUM-4.3 CHLORIDE-101 TOTAL CO2-25 ANION GAP-16
___ 03:10PM   WBC-8.6 RBC-4.21* HGB-12.6* HCT-37.3* MCV-89 
MCH-30.0 MCHC-33.9 RDW-12.8
___ 03:10PM   PLT COUNT-286
___ 03:10PM   ___ PTT-29.6 ___
___ 12:30PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 12:30PM URINE  BLOOD-TR NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 12:30PM URINE  RBC-7* WBC-5 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 12:30AM   ___ COMMENTS-GREEN TOP
___ 12:30AM   LACTATE-1.3 K+-4.1
___ 12:20AM   GLUCOSE-105* UREA N-15 CREAT-1.0 SODIUM-136 
POTASSIUM-5.6* CHLORIDE-100 TOTAL CO2-24 ANION GAP-18
___ 12:20AM   WBC-11.0 RBC-4.42* HGB-13.5* HCT-38.9* MCV-88 
MCH-30.5 MCHC-34.7 RDW-13.1
___:20AM   NEUTS-71.8* LYMPHS-13.6* MONOS-11.7* EOS-2.0 
BASOS-0.8
___ 12:20AM   PLT COUNT-282
___ 12:20AM   ___ PTT-28.4 ___
___ 05:59AM BLOOD WBC-8.8 RBC-4.22* Hgb-12.6* Hct-37.6* 
MCV-89 MCH-30.0 MCHC-33.6 RDW-12.9 Plt ___
___ 05:59AM BLOOD Glucose-90 UreaN-20 Creat-1.1 Na-143 
K-3.7 Cl-105 HCO3-28 AnGap-14
___ 05:59AM BLOOD ALT-30 AST-16 AlkPhos-38* TotBili-0.3

MICRO:
========
___ 11:45 am SPUTUM     Site: EXPECTORATED
      Source: Expectorated. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Preliminary): 

___ 8:30 pm SPUTUM      Source: Expectorated. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Preliminary): 

   MTB Direct Amplification (Final ___: 
      M. TUBERCULOSIS DNA NOT DETECTED BY NAAT: A negative NAAT 
cannot rule
      out TB  or other mycobacterial infection. 
      NAAT results will be followed by confirmatory testing with
      conventional culture and DST methods. This TB NAAT method 
has not
      been approved by FDA for clinical diagnostic purposes. 
However, ___
      ___ Institute (___) has established assay 
performance by
      in-house validation in accordance with ___ standards. 
      TEST PERFORMED BY ___ LAB (___). 

___ 11:36 am SPUTUM      Source: Expectorated. 

   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI IN 
PAIRS. 

   RESPIRATORY CULTURE (Final ___: 
      SPARSE GROWTH Commensal Respiratory Flora. 
      YEAST.    SPARSE GROWTH. 

   FUNGAL CULTURE (Preliminary): 
      YEAST. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Pending): 

___ 12:20 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 

___ 10:54 am BRONCHIAL WASHINGS      RIGHT BRONCHIAL WASH. 

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      3+  ___ per 1000X FIELD):   GRAM NEGATIVE ROD(S). 

   RESPIRATORY CULTURE (Final ___: 
      ~4000/ML Commensal Respiratory Flora. 
      PSEUDOMONAS AERUGINOSA.    >100,000 ORGANISMS/ML.. 
         Piperacillin/Tazobactam sensitivity testing performed 
by ___
         ___.  MEROPENEM sensitivity testing performed by 
___. 
      ACHROMOBACTER SPECIES.    10,000-100,000 ORGANISMS/ML.. 
         sensitivity testing performed by Microscan. 
         MEROPENEM <= 1 MCG/ML.  Cefepime >16 MCG/ML. 
      PSEUDOMONAS AERUGINOSA.    10,000-100,000 ORGANISMS/ML.. 
         SECOND MORPHOLOGY. 
         Piperacillin/Tazobactam sensitivity testing performed 
by ___
         ___. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |          ACHROMOBACTER SPECIES
                             |          |          PSEUDOMONAS 
AERUGINOSA
                             |          |          |   
CEFEPIME--------------    32 R          R        2 S
CEFTAZIDIME-----------  =>64 R     =>32 R        4 S
CEFTRIAXONE-----------               32 I
CIPROFLOXACIN---------     2 I      =>4 R      0.5 S
GENTAMICIN------------   <=1 S        2 S      <=1 S
IMIPENEM--------------              <=1 S
LEVOFLOXACIN----------              <=1 S
MEROPENEM-------------       R          S   <=0.25 S
PIPERACILLIN/TAZO-----       I      <=8 S          S
TOBRAMYCIN------------   <=1 S        2 S      <=1 S
TRIMETHOPRIM/SULFA----              <=2 S

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Preliminary): 
            MYCOBACTERIUM AVIUM COMPLEX. 
         Identified by ___ Laboratory ,REPORT DATE: 
___. 

   FUNGAL CULTURE (Final ___: 
      EXOPHIALA SPECIES.    1 COLONY. 

IMAGING:
=========
___ Imaging CHEST (PA & LAT)      
1. Large right upper lobe consolidation, concerning for 
pneumonia versus 
hemorrhage little change since ___. Concurrent 
peribronchial 
infiltration in the right middle and lower lobes has improved. 
     
___ Cardiovascular ECG 
Sinus tachycardia. Borderline R wave progression. Borderline 
leftward axis. Compared to the previous tracing of ___ the 
rate is faster. The findings are otherwise similar. 
  Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
103 140 88 ___ ___ with h/o severe COPD s/p right sided endobronchial coil 
placement on ___ admitted with fever, RUL infiltrate consistent 
with PNA.

# RUL bacterial pneumonia: Pt developed fever and increased 
sputum production following last admission for endobronchial 
coil placement. He was started on levofloxacin as an outpatient 
and shortly after admitted to OSH where he received 
vanc/piperacillin-tazobactam for several days and was discharged 
home on levofloxacin. He experienced recurrent fever at home and 
was advised to present to ___ where CXR showed RUL 
consolidation infiltrate, most likely postobstructive PNA in 
area of coiling procedure given fevers, change in sputum 
production and temporary clinical improvement while on broad 
spectrum abx at OSH. He was initially treated with 
vanc/piperacillin-tazobactam /levofloxacin. Notably, BAL from 
___ on last admission grew resistant pseudomonas. Patient at 
risk for developing further antibiotic resistance given 
interrupted courses of levofloxacin and vanc/zosyn in the week 
prior to presentation. However, given clinical improvement, 
antibiotics were narrowed to piperacillin-tazobactam in 
consultation with ID with plan for 14 day total course with 
close outpatient follow up. Sputum culture this admission grew 
commensal respiratory flora and sparse yeast, which may 
represent exophiala species felt to represent colonization on 
prior BAL. Endobronchial coil removal was discussed with IP and 
ID, but deferred given clinical improvement on antibiotics. 

# COPD: Severe with FEV1 23% and reduced DLCO s/p endobronchial 
coiling as above. Normally on prednisone 10mg daily, recently on 
prednisone taper following coiling procedure. Increased to 60mg 
on admission in case COPD symptoms were contributing to SOB. 
Treated with prednisone 60mg daily x 5 day burst (d1 = ___. 
Continued home advair, spiriva, zyrtec, montelukast.

# ___: AFB cx from ___ BAL returned positive on ___. Patient 
had history of partially treated ___ in ___ per Parters 
records. Ruled out for active pulm TB with negative sputum AFB x 
3. AFB cx from ___ sent to state lab and identified as ___. 

# Emergency Contact: ___ ___ (wife)

TRANSITIONAL ISSUES:
====================
# RUL Pseudomonal PNA: Discharged on piperacillin-tazobactam for 
14 day total course (last day ___. If worsens clinically, 
may require tobramycin given intermediate sensitivity of 
pseudomonas from BAL ___ to pip-tazo. Has ID followup on 
___. Will need labs to include CBC with differential, 
Creatinine, LFTs in 5 days of discharge ___ or ___ 
given upcoming ___) faxed to Dr. ___ 
new ID provider ___ ___.
# ___: Consider reattempting outpatient treatment, would require 
prolonged course. ___ have positive AFB culture on future BALs 
given known ___ infection.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN SOB, wheeze 
2. Cetirizine 10 mg PO DAILY 
3. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
4. Guaifenesin ER 600 mg PO Q12H 
5. Levothyroxine Sodium 150 mcg PO DAILY 
6. Lorazepam 1 mg PO BID 
7. Montelukast 10 mg PO DAILY 
8. Losartan Potassium 25 mg PO DAILY 
9. Tiotropium Bromide 1 CAP IH DAILY 
10. Aspirin 81 mg PO DAILY 
11. Multivitamins 1 TAB PO DAILY 
12. Vitamin D 1000 UNIT PO DAILY 
13. PredniSONE 10 mg PO DAILY 
Start: After 20 mg tapered dose 
14. Levofloxacin 500 mg PO Q24H 

 
Discharge Medications:
1. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN SOB, wheeze 
2. Aspirin 81 mg PO DAILY 
3. Cetirizine 10 mg PO DAILY 
4. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
5. Guaifenesin ER 600 mg PO Q12H 
6. Levothyroxine Sodium 150 mcg PO DAILY 
7. Lorazepam 1 mg PO BID 
8. Losartan Potassium 25 mg PO DAILY 
9. Montelukast 10 mg PO DAILY 
10. Multivitamins 1 TAB PO DAILY 
11. Tiotropium Bromide 1 CAP IH DAILY 
12. Vitamin D 1000 UNIT PO DAILY 
13. Piperacillin-Tazobactam 4.5 g IV Q6H 
RX *piperacillin-tazobactam 4.5 gram 4.5 gram IV Every 6 hours 
Disp #*44 Vial Refills:*0
14. PredniSONE 60 mg PO DAILY Duration: 1 Dose 
Take on ___ and return to regular 10mg dosing after that. 
RX *prednisone 20 mg 3 tablet(s) by mouth Once Disp #*3 Tablet 
Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Bacterial Pneumonia

Secondary: 
COPD
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure participating in your care at ___. You were 
admitted to the hospital for shortness of breath due to a 
pneumonia. You were treated with IV antibiotics and should 
continue to take them through your new ___ line for a total of 
14 days (last day ___. You are scheduled to see Dr. ___ in 
the ___ Diseases clinic to discuss whether you will need 
additional antibiotics after that. Please follow up with the 
interventional pulmonary doctors as ___. 

We gave you high dose prednisone (60mg) in the hospital which 
you should also take tomorrow to complete 5 days. On ___, you 
may resume your normal dose of 10mg daily.
 
Followup Instructions:
___